US07659245B2
7-Methoxy-8-methyl-2-pyridin-4-yl-quinazolin-4-ol (123)
The general procedure described above was followed using 2-amino-4-methoxy-3-methyl benzamide as benzamide derivative and isonicotinoyl chloride hydrochloride as acid chloride, which gave the title compound (1.6 g, 60%), [M+H]=268.

reactant | 2-amino-4-methoxy-3-methyl benzamide | NC1=C(C(=O)N)C=CC(=C1C)OC | C9H12N2O2
reactant | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | isonicotinoyl chloride hydrochloride | Cl.C(C1=CC=NC=C1)(=O)Cl
product | 7-Methoxy-8-methyl-2-pyridin-4-yl-quinazolin-4-ol | 1.6 g, 60% | COC1=CC=C2C(=NC(=NC2=C1C)C1=CC=NC=C1)O | C15H13N3O2
